US05457192
2.56 g (20.0 mmol) of 1,6-anhydro-3,4-dideoxy-β-D-threo-hexo-3-enopyranose, 10.49 g (40.0 mmol) of triphenyl phosphine, and 6.69 g (40.0 mmol) of 4-nitrobenzoic acid were added to 32 ml of dry THF, and a solution obtained by dissolving 6.97 g (40.0 mmol) of diethylazodicarboxylate in 32 ml of dry THF was gradually dropped in the above mixture in a nitrogen-sealed ice-water bath. The resultant solution was stirred at room temperature for 41 hours. The solvent was distilled from the reaction solution at a reduced pressure. Triphenyl phosphine oxide as a byproduct was eliminated from the residue using a silica gel column (eluent: chloroform). The solvent was distilled from the resultant eluate at a reduced pressure, and the residue was purified using a silica gel column (hexane:ethyl acetate=5:1) to obtain 4.16 g (yield: 75.1%) of 1,6-anhydro-3,4-dideoxy-2-O-(4-nitrobenzoyl)-β-D-erythro-hex-3-enopyranose. This product was recrystallized from a solvent mixture of hexane, diethyl ether, and chloroform (a mixing ratio of 1:1:1).

reactant | triphenyl phosphine | 40.0 mmol, 10.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 40.0 mmol, 6.69 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diethylazodicarboxylate | 40.0 mmol, 6.97 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | THF | 32 ml | C1CCOC1 | C4H8O
product | 1,6-anhydro-3,4-dideoxy-2-O-(4-nitrobenzoyl)-β-D-erythro-hex-3-enopyranose | 4.16 g, yield: 75.1% | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@H]3O[C@@H](C=C2)CO3)C=C1 | C13H11NO6
